US08168802B2
A solution of isoamylnitrite (0.30 g, 2.6 mmol), diiodomethane (2 mL), and chloroform (3 mL) was heated at 85° C. A mixture of N-[4-(5-amino-4-cyano-2-ethyl-1H-imidazol-1-yl)butyl]methanesulfonamide (0.2 g, 0.7 mmol) and chloroform (8 mL) was added over a period of 15 minutes. The reaction was stirred and heated at 80° C. for an additional 10 minutes, allowed to cool to room temperature, and concentrated under reduced pressure. The residue was purified through a layer of silica gel (15 g, eluting sequentially with chloroform, 2% methanol in chloroform, 4% methanol in chloroform, 8% methanol in chloroform, and 10% methanol in chloroform) to provide 0.16 g (57%) of N-[4-(4-cyano-2-ethyl-5-iodo-1H-imidazol-1-yl)butyl]methanesulfonamide as an amber syrup.

reactant | isoamylnitrite | 2.6 mmol, 0.30 g | C(CC(C)C)ON=O | C5H11NO2
reactant | diiodomethane | 2 mL | ICI | CH2I2
reactant | N-[4-(5-amino-4-cyano-2-ethyl-1H-imidazol-1-yl)butyl]methanesulfonamide | 0.7 mmol, 0.2 g | NC1=C(N=C(N1CCCCNS(=O)(=O)C)CC)C#N | C11H19N5O2S
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-cyano-2-ethyl-5-iodo-1H-imidazol-1-yl)butyl]methanesulfonamide | 0.16 g, 57% | C(#N)C=1N=C(N(C1I)CCCCNS(=O)(=O)C)CC | C11H17IN4O2S
